US07446118B2
3-(7-Fluoro-1H-indol-5-yl)-3-phenyl-acrylic acid ethyl ester LXXXI (215 mg, 74% yield)was prepared from 5-bromo-7-fluoroindole using the procedure described for 3-(7-Methoxy-1H-Indol-4-yl)-3-phenyl-acrylic acid ethyl ester LIII (Example 13).

reactant | 5-bromo-7-fluoroindole | BrC=1C=C2C=CNC2=C(C1)F | C8H5BrFN
reactant | 3-(7-Methoxy-1H-Indol-4-yl)-3-phenyl-acrylic acid ethyl ester | C(C)OC(C=C(C1=CC=CC=C1)C1=C2C=CNC2=C(C=C1)OC)=O | C20H19NO3
product | 3-(7-Fluoro-1H-indol-5-yl)-3-phenyl-acrylic acid ethyl ester | 74% yield | C(C)OC(C=C(C1=CC=CC=C1)C=1C=C2C=CNC2=C(C1)F)=O | C19H16FNO2
